US05489603
A mixture of 1.03 g of 1-(6-chloro-3-pyridyl)-3-methylthiourea, 0.32 g of cyanamide, 1.58 g of dicyclohexylcarbodiimide, 3 drops of ethyl diisopropylamine and 10 ml of acetonitrile was stirred for 34 hours at room temperature and filtered to collect an insoluble substance. The insoluble substance was recrystallized from a mixed solvent of acetonitrile and methanol, and then from acetonitrile to obtain 0.31 g of 1-(6-chloro-3-pyridyl)-2-cyano-3-methylguanidine (Compound No. 24).

reactant | 1-(6-chloro-3-pyridyl)-3-methylthiourea | 1.03 g | ClC1=CC=C(C=N1)NC(=S)NC | C7H8ClN3S
reactant | cyanamide | 0.32 g | N#CN | CH2N2
reactant | dicyclohexylcarbodiimide | 1.58 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | ethyl diisopropylamine | 3 drops | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(6-chloro-3-pyridyl)-2-cyano-3-methylguanidine | 0.31 g | ClC1=CC=C(C=N1)NC(=NC#N)NC | C8H8ClN5
